US06121271
Nicotinic acid 2-carboxy-5-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-phenyl ester
The title compound was prepared according to the procedure in Example 25, step 1, using 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester (0.500 g, 0.749 mmol), nicotinic acid (0.092 g, 0.749 mmol), 2-chloro-1-methylpyridinium iodide (0.230 g, 0.899 mmol) and triethylamine (0.251 mL, 1.80 mmol). Purification on Biotage KP-Sil eluting with 20% EtOAc/hexane gave 0.460 g, (80%) of the title compound. 1H NMR (DMSO-d6) 6 1.34 (s, 9 H), 1.55 (s, 3 H), 2.16 (s, 6 H), 2.36 (s, 3 H), 7.19 (s, 2 H), 7.45-7.46 (m, 2 H), 7.61-7.71 (m, 2 H), 8.12-8.25 (m, 4 H), 8.50 (ddd, 1 H), 8.94 (d, 1 H), 9.29 (s, 1 H).

reactant | 4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester | 0.749 mmol, 0.500 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)O)=O | C33H31BrO6S2
reactant | nicotinic acid | 0.749 mmol, 0.092 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 2-chloro-1-methylpyridinium iodide | 0.899 mmol, 0.230 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 1.80 mmol, 0.251 mL | C(C)N(CC)CC | C6H15N
product | Nicotinic acid 2-carboxy-5-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-phenyl ester | 80% | C(=O)(O)C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)OC(C2=CN=CC=C2)=O | C35H26BrNO7S2
